US06949579B2
10 cm3 of trimethylsilyl iodide are added to 600 mg of N-[5-(4-ethylphenyl)-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide, described previously, and the mixture is refluxed for 18 hours. 30 cm3 of methanol are added and the reaction medium is refluxed for 5 minutes and then concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is taken up in 100 cm3 of ethyl acetate and the organic phase is washed with 2×100 cm3 of 10% sodium thiosulphate solution and then with 75 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure to give 650 mg of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (50/50 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 15 cm3 of diisopropyl ether, filtered off, washed with 5 cm3 of ethyl acetate and then with 10 cm3 of diisopropyl ether, and dried (90 Pa; 45° C.) to give 180 mg of N-[5-(4-ethylphenyl)-6-(4-hydroxyphenyl)-1H-indazol-3-yl]-butanamide in the form of cream-coloured crystals melting at 225° C.

reactant | trimethylsilyl iodide | 10 cm3 | C[Si](C)(C)I | C3H9ISi
reactant | N-[5-(4-ethylphenyl)-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 600 mg | C(C)C1=CC=C(C=C1)C=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)NC(CCC)=O | C32H31N3O2
solvent | methanol | 30 cm3 | CO | CH4O
product | N-[5-(4-ethylphenyl)-6-(4-hydroxyphenyl)-1H-indazol-3-yl]-butanamide | 180 mg | C(C)C1=CC=C(C=C1)C=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)O)NC(CCC)=O | C25H25N3O2
